US07435837B2
Treatment of (+)-benzyl {[7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate (0.326 g, 0.864 mmol) with palladium on carbon (0.033 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.195 g (81%) of (+)-1-[7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. [α]D25=+18.32 (c 10.0 in methanol); mp 186-188° C.; Anal. calcd. for C15H14FNOHCl: C, 64.4; H, 5.4; N, 5.01. Found: C, 63.32; H, 5.1; N, 4.86.

reactant | (+)-benzyl {[7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 0.864 mmol, 0.326 g | FC=1C=C(C=CC1)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C23H20FNO3
catalyst | palladium on carbon | 0.033 g | [Pd] | Pd
product | (+)-1-[7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.195 g, 81% | FC=1C=C(C=CC1)C1=CC=CC=2CC(OC21)CN | C15H14FNO
